### PR TITLE
[Merged by Bors] - feat(Topology/ContinuousMap/Interval): define the concatenation operation on continuous maps on intervals as a continuous map

### PR DESCRIPTION
**Pull request by vbeffara**
The main definition is a continuous map `transCM` on pairs of compatible continuous maps from the intervals `Icc a b` and `Icc b c` to form a continuous map on `Icc a c`.

---
- [x] depends on: #18695

I'm not sure about the naming, I hesitated between `trans` to match `Path.trans` (which I eventualy chose), `concat` and `append` and am attached to neither.

### CODE REVIEW

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 1]
```diff
@@ -0,0 +1,176 @@
...
+def subinterval_left (h : b ∈ Icc a c) : C(Icc a b, Icc a c) where
+  toFun x := ⟨x, x.2.1, x.2.2.trans h.2⟩
+
+/-- The embedding into an interval from a sub-interval lying on the right, as a `ContinuousMap`. -/
+def subinterval_right (h : b ∈ Icc a c) : C(Icc b c, Icc a c) where
+  toFun x := ⟨x, h.1.trans x.2.1, x.2.2⟩
+
+/-- The value of a `ContinuousMap` defined on an interval at the left extremity of the interval. -/
+def leftval (hab : a ≤ b) (f : C(Icc a b, E)) : E :=
+  f ⟨a, le_rfl, hab⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:32]: Is this not
```suggestion
def leftval (hab : a ≤ b) (f : C(Icc a b, E)) : E := f ⊥
```
once you have made `Set.Icc.orderBot` a local instance? Do you think we need it as a separate definition?

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 2]
```diff
@@ -0,0 +1,176 @@
...
+def rightval (hbc : b ≤ c) (f : C(Icc b c, E)) : E :=
+  f ⟨c, hbc, le_rfl⟩
+
+/-- The map `leftval` as a `ContinuousMap`. -/
+def leftvalCM (hab : a ≤ b) : C(C(Icc a b, E), E) :=
+  ⟨leftval hab, continuous_eval_const _⟩
+
+/-- The map `rightval` as a `ContinuousMap`. -/
+def rightvalCM (hbc : b ≤ c) : C(C(Icc b c, E), E) :=
+  ⟨rightval hbc, continuous_eval_const _⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:44]: And then these become the evaluation map at `⊥` and `⊤`, so probably also not worth having as separate definitions

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 3]
```diff
@@ -0,0 +1,176 @@
...
+  map. See `transCM` for the corresponding map on the subtype of compatible function pairs. -/
+noncomputable def trans (h : b ∈ Icc a c) (f : C(Icc a b, E)) (g : C(Icc b c, E)) :
+    C(Icc a c, E) := by
+  by_cases hb : rightval h.1 f = leftval h.2 g
+  · let h (t : α) : E := if t ≤ b then IccExtendCM h.1 f t else IccExtendCM h.2 g t
+    suffices Continuous h from ⟨fun t => h t, by fun_prop⟩
+    apply Continuous.if_le (by fun_prop) (by fun_prop) continuous_id continuous_const
+    rintro x rfl
+    simpa [IccExtendCM, projIccCM]
+  · exact .const _ (leftval h.1 f) -- junk value
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:84]: Don't you want to also provide a junk value when `b ∉ Icc a b`? Then you wouldn't need `(h : b ∈ Icc a c)`

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 4]
```diff
@@ -0,0 +1,176 @@
...
+
+@[simp]
+theorem IccExtendCM_of_mem {hab : a ≤ b} {f : C(Icc a b, E)} {x : α} (hx : x ∈ Icc a b) :
+    IccExtendCM hab f x = f ⟨x, hx⟩ := by
+  simp [IccExtendCM, projIccCM, projIcc, hx.1, hx.2]
+
+/-- The concatenation of two continuous maps defined on adjacent intervals. If the values of the
+  functions on the common bound do not agree, this is defined as an arbitrarily chosen constant
+  map. See `transCM` for the corresponding map on the subtype of compatible function pairs. -/
+noncomputable def trans (h : b ∈ Icc a c) (f : C(Icc a b, E)) (g : C(Icc b c, E)) :
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:76]: Is this called `trans` because you are transitively going from `a` to `c` by passing through `b`? I would have called that `concat`

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 5]
```diff
@@ -0,0 +1,176 @@
...
+  continuous_toFun := continuous_comp_left _
+
+@[simp]
+theorem IccExtendCM_of_mem {hab : a ≤ b} {f : C(Icc a b, E)} {x : α} (hx : x ∈ Icc a b) :
+    IccExtendCM hab f x = f ⟨x, hx⟩ := by
+  simp [IccExtendCM, projIccCM, projIcc, hx.1, hx.2]
+
+/-- The concatenation of two continuous maps defined on adjacent intervals. If the values of the
+  functions on the common bound do not agree, this is defined as an arbitrarily chosen constant
+  map. See `transCM` for the corresponding map on the subtype of compatible function pairs. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:75]: We don't indent docstrings
```suggestion
functions on the common bound do not agree, this is defined as an arbitrarily chosen constant
map. See `transCM` for the corresponding map on the subtype of compatible function pairs. -/
```

**Review by YaelDillies — COMMENTED** [review]
Welcome to the community, Vincent! 👋

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 4 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean:76]: I initially called it `concat` but then wanted to match the naming of `Path.trans`. Will rename to `concat`...

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 1 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean:32]: OK it is simpler like you say, definition not needed.

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 2 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean:44]: Right.

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 3 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean:84]: That could be an option, but with the whole `Set.Icc.OrderBot` local instance change from above I end up carrying around `[Fact (a \le b)]` and `[Fact (b \le c)]` instead anyway. Besides, choosing a junk value seems to be slightly nontrivial (unless one adds `[Inhabited E]` or something)?

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 5 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean:75]: OK.

**Comment by vbeffara** [comment]
@YaelDillies maybe I misunderstood your suggestion... I added a local instance for `OrderBot (Icc a b)` to clean up the left / right values, but that means that now there is a `[Fact (a \le b)]` variable covering the whole file. Which makes sense to me but might well be a terrible idea.

**Comment by YaelDillies** [comment]
> @YaelDillies maybe I misunderstood your suggestion... I added a local instance for `OrderBot (Icc a b)` to clean up the left / right values, but that means that now there is a `[Fact (a \le b)]` variable covering the whole file. Which makes sense to me but might well be a terrible idea.

You interpreted my suggestion correctly. I think it makes sense here to have this Fact

**Comment by vbeffara** [comment]
Is there a reason why `Set.Icc.boundedOrder` is not an instance?

**Comment by YaelDillies** [comment]
Currently it takes in `a \le b`. If it took, `Fact (a \le b)`, it should be made an instance

**Comment by vbeffara** [comment]
Would it make sense to add that instance (taking a `Fact`) to it (and the ordertop / orderbot ones) as part of this PR, to remove the need for the local instance here? As it is, any file that wants to use `concatCM` needs its own local instance just to state the assumptions...

**Comment by YaelDillies** [comment]
> Would it make sense to add that instance (taking a `Fact`) to it (and the ordertop / orderbot ones) as part of this PR, to remove the need for the local instance here?

It would make sure, but as a separate PR please 🙏 (and request my review so that it goes in quickly)

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 6]
```diff
@@ -0,0 +1,148 @@
...
+
+namespace ContinuousMap
+
+variable {α : Type*} [LinearOrder α] [TopologicalSpace α] [OrderTopology α]
+variable {a b c : α} [Fact (a ≤ b)] [Fact (b ≤ c)]
+variable {E : Type*} [TopologicalSpace E]
+
+/-- The embedding into an interval from a sub-interval lying on the left, as a `ContinuousMap`. -/
+def subinterval_left : C(Icc a b, Icc a c) where
+  toFun x := ⟨x, x.2.1, le_trans x.2.2 Fact.out⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:25]:
```suggestion
  toFun := Set.inclusion sorry
```

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 7]
```diff
@@ -0,0 +1,148 @@
...
+
+/-- The embedding into an interval from a sub-interval lying on the right, as a `ContinuousMap`. -/
+def subinterval_right : C(Icc b c, Icc a c) where
+  toFun x := ⟨x, le_trans Fact.out x.2.1, x.2.2⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:29]: I think these should be defined in terms of the apparently missing `ContinuousMap.inclusion`

Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:29]: Those two should be camel case

Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean]: I added `ContinuousMap.inclusion`

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 8]
```diff
@@ -0,0 +1,148 @@
...
+
+variable {f : C(Icc a b, E)} {g : C(Icc b c, E)}
+
+theorem concat_comp_left (hb : f ⊤ = g ⊥) :
+    f = (concat f g).comp subintervalLeft := by
+  ext x
+  simp [concat, IccExtendCM, hb, subintervalLeft, projIccCM, inclusion, x.2.2]
+
+theorem concat_comp_right (hb : f ⊤ = g ⊥) :
+    g = (concat f g).comp subintervalRight := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:67]:
```suggestion
theorem concat_comp_subintervalRight (hb : f ⊤ = g ⊥) :
    (concat f g).comp subintervalRight = g := by
```

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 9]
```diff
@@ -0,0 +1,148 @@
...
+  ext ⟨x, hx⟩
+  by_cases hxb : x = b
+  · subst x
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:70]:
```suggestion
  obtain rfl | hxb := eq_or_ne x b
  · 
```

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 10]
```diff
@@ -0,0 +1,148 @@
...
+
+namespace ContinuousMap
+
+variable {α : Type*} [LinearOrder α] [TopologicalSpace α] [OrderTopology α]
+variable {a b c : α} [Fact (a ≤ b)] [Fact (b ≤ c)]
+variable {E : Type*} [TopologicalSpace E]
+
+/-- The embedding into an interval from a sub-interval lying on the left, as a `ContinuousMap`. -/
+def subintervalLeft : C(Icc a b, Icc a c) :=
+  .inclusion <| Icc_subset_Icc le_rfl Fact.out
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:25]: Are you sure no one will ever need the other `Ixx` versions? I wonder whether `Icc` should appear anywhere in the name

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 8 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean]: OK that makes sense. I am only using that lemma for rewrites in the direction I had, but the simp direction is the one you are suggesting.

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 9 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean]: OK.

File: Mathlib/Topology/ContinuousMap/Interval.lean (hunk 10 above)
Comment (vbeffara) [reply Mathlib/Topology/ContinuousMap/Interval.lean:25]: `IccInclusionLeft` then?

File: Mathlib/Topology/ContinuousMap/Interval.lean [hunk 11]
```diff
@@ -0,0 +1,146 @@
...
+  by_cases hxb : x ≤ b
+  · rw [concat_left hfg hxb]
+    refine hf ⟨x, ⟨x, ⟨hx, hxb⟩, rfl⟩, ?_⟩
+    simp [projIccCM, projIcc, hxb, x.2.1]
+  · replace hxb : b ≤ x := lt_of_not_le hxb |>.le
+    rw [concat_right hfg hxb]
+    refine hg ⟨x, ⟨x, ⟨hx, hxb⟩, rfl⟩, ?_⟩
+    simp [projIccCM, projIcc, hxb, x.2.2]
+
+/-- The concatenation of compatible pairs of continuous maps on adjacent intrevals, defined as a
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/Interval.lean:119]: Intresting spelling
```suggestion
/-- The concatenation of compatible pairs of continuous maps on adjacent intervals, defined as a
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
